US04415580
A mixture containing 34 g of 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinamide, 50 ml of concentrated sulfuric acid and 100 ml of water was heated on a steam bath with stirring for 6 hours. The hot reaction solution was filtered and to the filtrate was added 50 ml of water. The resulting mixture was allowed to stand at room temperature overnight whereupon the product crystallized out. The separated product was collected, washed with water, dried in a vacuum oven at 90°-95° C. to yield 16.8 g of 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinic acid, m.p. 238°-241° C. This acid was recrystallized from methanol and dried to yield 14.7 g of 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinic acid, m.p. 241°-243° C.

reactant | 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinamide | 34 g | C(C)(=O)C1=C(NC(C(C(=O)N)=C1)=O)C | C9H10N2O3
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 5-acetyl-1,2-dihydro-6-methyl-2-oxonicotinic acid | 16.8 g | C(C)(=O)C1=C(NC(C(C(=O)O)=C1)=O)C | C9H9NO4
